US03951999
4-Ethyl-4'-fluoro-2-hydroxybenzophenone-oxime
4-Ethyl-4'-fluoro-2-hydroxybenzophenone (21.0g, 80% pure) was treated with hydroxylamine hydrochloride (24.0g) similarly to Example 12, to give, after recrystallisation from benzene, the title compound as a white crystalline solid (10.7g), m.p. 130°-2°C.

reactant | 4-Ethyl-4'-fluoro-2-hydroxybenzophenone | 21.0g | C(C)C1=CC(=C(C(=O)C2=CC=C(C=C2)F)C=C1)O | C15H13FO2
reactant | hydroxylamine hydrochloride | 24.0g | Cl.NO
product | 4-Ethyl-4'-fluoro-2-hydroxybenzophenone-oxime | C(C)C1=CC(=C(C(C2=CC=C(C=C2)F)=NO)C=C1)O | C15H14FNO2
